US07081456B2
Intermediate 11: Preparation of methyl 8-fluoro-4-oxothiochromane-3-carboxylate
1M Lithium hexamethyldisilazide solution in hexane (13.2 ml) was dissolved in anhydrous tetrahydrofuran (20 ml) under nitrogen atmosphere. The solution was cooled to −78° C. 8-Fluoro-2,3-dihydro-4H-thiochromen-4-one (2.00 g, 11 mmol) was dissolved in tetrahydrofuran (40 ml), the solution was transferred to the dropping funnel and added dropwise over 30 min to the reaction mixture maintaining the temperature below −60° C. An orange clear solution was obtained which was stirred at −78° C. to −65° C. for 2 h. Methyl cyanoformate (0.935 g, 0.87 ml) was dissolved in tetrahydrofuran (2 ml) and added dropwise to the reaction solution. Stirring was continued at low temperature for 1 h, the mixture was then allowed to warm to room temperature. Saturated ammonium chloride solution (20 ml) and water (10 ml) were added, the phases mixed for 5 min and separated. The aqueous phase was washed with ethyl acetate (2×100 ml) and the combined organic phases were dried over magnesium sulphate. The mixture was filtered and the solvent removed under vacuum to give an orange oil. The crude oil was purified by column chromatography; mobile phase: hexanes, gradient to hexanes/ethyl acetate [90:10]. The title compound was isolated as a yellow solid (1.19 g, 4.95 mmol, 45%).

reactant | Lithium hexamethyldisilazide | 1M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 8-Fluoro-2,3-dihydro-4H-thiochromen-4-one | 11 mmol, 2.00 g | FC=1C=CC=C2C(CCSC12)=O | C9H7FOS
reactant | Methyl cyanoformate | 0.87 ml, 0.935 g | C(#N)C(=O)OC | C3H3NO2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | hexane | 13.2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | methyl 8-fluoro-4-oxothiochromane-3-carboxylate | FC=1C=CC=C2C(C(CSC12)C(=O)OC)=O | C11H9FO3S
